US06350757B1
Step A: 2-[4-(Triethylsilyl)-3-butynyl]-1H-isoindole-1,3(2H)-dione
108 g of (4-triethylsilanylbut-3-yn-1-ol) tosylate in 50 ml of dimethylformamide are added to a suspension of 72.3 g of potassium phthalimidate in 450 ml of dimethylformamide.

reactant | (4-triethylsilanylbut-3-yn-1-ol) tosylate | 108 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC#C[Si](CC)(CC)CC | C17H26O3SSi
reactant | potassium phthalimidate | 72.3 g | C(C=1C(C([O-])=N)=CC=CC1)([O-])=N.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | 2-[4-(Triethylsilyl)-3-butynyl]-1H-isoindole-1,3(2H)-dione | C(C)[Si](C#CCCN1C(C2=CC=CC=C2C1=O)=O)(CC)CC | C18H23NO2Si
